US06521666B1
Benzoyl thiocyanate was generated by refluxing a solution of benzoyl chloride (0.31 mL) and ammonium thiocyanate (0.20 g) in acetone (15 mL) for 30 min. To this solution was added a solution of 4-amino-2-chlorobenzoic acid methyl ester (0.5 g) in CH3CN (10 mL) and the mixture was refluxed for 5 h. The solvent was removed and the residue was partitioned between CH2Cl2 and water. The organic layer was separated, washed with brine, dried and evaporated. The residue was purified by column chromatography to yield 2-chloro-4-(3-benzoylthioureido)benzoic acid methyl ester (0.71 g). ESMS: 349 (MH+).

reactant | Benzoyl thiocyanate | C(C1=CC=CC=C1)(=O)SC#N | C8H5NOS
reactant | benzoyl chloride | 0.31 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 0.20 g | [S-]C#N.[NH4+]
reactant | 4-amino-2-chlorobenzoic acid methyl ester | 0.5 g | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 2-chloro-4-(3-benzoylthioureido)benzoic acid methyl ester | 0.71 g | COC(C1=C(C=C(C=C1)NC(=S)NC(C1=CC=CC=C1)=O)Cl)=O | C16H13ClN2O3S
